US07807691B2
2-(3-Methoxy-phenyl)-pyrrolidine
To a solution of 5-(3-methoxy-phenyl)-3,4-dihydro-2H-pyrrole (10.73 g, 61.2 mmol) in ethanol (306 mL) at 0° C. add sodium cyanoborohydride (5.77 g, 91.9 mmol), followed by acetic acid (5.26 mL, 91.9 mmol). After stirring at 0° C. for 30 min, warm to room temperature. After 16 hours the reaction is approximately 50% complete. Add more sodium cyanoborohydride (5.77 g, 91.9 mmol) and acetic acid (5.26 mL, 91.9 mmol) and stir an additional 5 hours. Add saturated aqueous sodium bicarbonate (500 mL), extract with methylene chloride (3×500 mL), dry the combined organic layers over magnesium sulfate, filter, and concentrate under reduced pressure to obtain a crude mixture (11.50 g). Purify the material by flash chromatography [silica gel, 330 g, 0 to 100% gradient of (90:10:1 methylene chloride/methanol/concentrated ammonium hydroxide) in methylene chloride] to obtain 7.06 g. Dissolve this crude material in ethyl acetate (300 mL) and extract with 2 M hydrochloric acid (2×150 mL). Separate the layers, and adjust the aqueous layer to pH 13 with aqueous sodium hydroxide, then extract with ethyl acetate multiple times. Dry the combined organic layers over magnesium sulfate, filter, and concentrate under reduced pressure to obtain 6.03 g. Dissolve in methylene chloride (400 mL) and extract with 2 M hydrochloric acid (3×100 mL). Adjust the combined aqueous layers to pH 13, then extract with methylene chloride (3×150 mL). Separate the layers, and dry the combined organic layers over magnesium sulfate, filter, and concentrate under reduced pressure to obtain the title compound (4.12 g, 38%). MS (ESI+): 178 [C11H15NO+H]+; 1H NMR (300 MHz, CDCl3): δ 7.26-7.20 (m, 1H), 6.95-6.93 (m, 2H), 6.79-6.75 (m, 1H), 3.80 (s, 3H), 4.09 (t, J=7.7 Hz, 1H), 3.24-3.16 (m, 1H), 3.04-2.96 (m, 1H), 2.19 (s, 1H), 2.23-2.12 (m, 1H), 1.98-1.76 (m, 2H), 1.72-1.60 (m, 1H).

reactant | 5-(3-methoxy-phenyl)-3,4-dihydro-2H-pyrrole | 61.2 mmol, 10.73 g | COC=1C=C(C=CC1)C=1CCCN1 | C11H13NO
reactant | sodium cyanoborohydride | 91.9 mmol, 5.77 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 91.9 mmol, 5.26 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 91.9 mmol, 5.77 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 91.9 mmol, 5.26 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 306 mL | C(C)O | C2H6O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-Methoxy-phenyl)-pyrrolidine | 4.12 g, 38% | COC=1C=C(C=CC1)C1NCCC1 | C11H15NO
